US06964966B2
Ammonium acetate (2.5 g, 32.46 mmol) was added to the stirred solution of 1-benzyl-3-ethyl-3-methyl-4-piperidinone (0.9 g, 3.9 mmol) in methanol (20 ml) and stirring was continued for 3 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (0.2 g, 3.1 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 6 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish 4-amino-1-benzyl-3-ethyl-3-methylpiperidine. Yield 0.6 g (66%), C15H24N2, m/z 233 (M+1).

reactant | Ammonium acetate | 32.46 mmol, 2.5 g | C(C)(=O)[O-].[NH4+]
reactant | 1-benzyl-3-ethyl-3-methyl-4-piperidinone | 3.9 mmol, 0.9 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)CC | C15H21NO
reactant | sodium cyanoborohydride | 3.1 mmol, 0.2 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-amino-1-benzyl-3-ethyl-3-methylpiperidine | NC1C(CN(CC1)CC1=CC=CC=C1)(C)CC | C15H24N2
